US06469021B1
Preparation of Isopropyl 9-(2,5-dichlorobenzyl)-9H-β-carboline-3-carboxylate
A mixture of 9-(2,5-dichlorobenzyl)-9H-β-carboline-3-carboxylic acid acetate salt (1.30 g, 3.02 mmol) and thionyl chloride (2.2 mL, 30 mmol) was stirred and refluxed for 2 hours. The reaction mixture was concentrated in vacuo and the resulting dark oil was used without further purification. The oil was dissolved in 15 mL of DMF (theor. 0.2M). A portion (2.5 mL, 0.5 mmol) of this solution was added to a large excess of isopropanol and triethylamine and the resulting mixture stirred at 60° C. overnight. After cooling to room temperature, the mixture was shaken with methylene chloride, and the mixture was washed with water and brine. The organic phase was dried with anhydrous sodium sulfate and the solvent removed in vacuo. Purification by flash chromatography on silica gel afforded the product as an oil (144 mg, 70%). 1H NMR (300 MHz, DMSO-d6) δ8.80 (s, 1H), 8.75 (s, 1H), 8.13-8.16 (m, 1H), 7.50-7.56 (m, 1H), 7.20-7.33 (m, 3H), 7.08 (dd,J=2.6, 8.7, 1H), 6.48 (d,J=2.3, 1H), 5.48 (s, 2H), 5.37 (septet, J=6.4, 1 H), 1.43 (d, J=6.4, 6H).

reactant | 9-(2,5-dichlorobenzyl)-9H-β-carboline-3-carboxylic acid acetate salt | 3.02 mmol, 1.30 g | C(C)(=O)O.ClC1=C(CN2C3=CC=CC=C3C=3C=C(N=CC23)C(=O)O)C=C(C=C1)Cl
reactant | thionyl chloride | 30 mmol, 2.2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Isopropyl 9-(2,5-dichlorobenzyl)-9H-β-carboline-3-carboxylate | 144 mg, 70% | ClC1=C(CN2C3=CC=CC=C3C=3C=C(N=CC23)C(=O)OC(C)C)C=C(C=C1)Cl | C22H18Cl2N2O2
